US04504484
2-pyrazine carboxylic acid, 2.5 gm, was added to 10 ml of methylene chloride. 3.2 gm of carbonyldiimidazole was added to the system. The system was stirred at room temperature for 3 hours to give the 2-pyrazine carboxylic acid imidazolide.

reactant | 2-pyrazine carboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | carbonyldiimidazole | 3.2 gm | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-pyrazine carboxylic acid imidazolide | [N-]1C=NC=C1.N1=C(C=NC=C1)C(=O)O | InChI=1S/C5H4N2O2.C3H3N2/c8-5(9)4-3-6-1-2-7-4;1-2-5-3-4-1/h1-3H,(H,8,9);1-3H/q;-1
